US09108938B2
N-[2-(4-Methoxy-phenyl)-2-piperidin-1-yl-ethyl]-2,3-dimethyl-benzamide
From 2,3-dimethylbenzoic acid and 2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethylamine.

reactant | 2,3-dimethylbenzoic acid | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | 2-(4-methoxy-phenyl)-2-piperidin-1-yl-ethylamine | COC1=CC=C(C=C1)C(CN)N1CCCCC1 | C14H22N2O
product | N-[2-(4-Methoxy-phenyl)-2-piperidin-1-yl-ethyl]-2,3-dimethyl-benzamide | COC1=CC=C(C=C1)C(CNC(C1=C(C(=CC=C1)C)C)=O)N1CCCCC1 | C23H30N2O2
